US09126981B2
Synthesis of (S)-(9H-fluoren-9-yl)methyl 3-(4-tert-butoxyphenyl)-1-((2,2-diethoxyethyl)(pyridin-2-ylmethyl)amino)-1-oxopropan-2-ylcarbamate (Compound III-16)
According to the procedure described in the synthesis method of Compound III-5, 2,2-diethoxy-N-(pyridin-2-ylmethyl)ethanamine (Compound IX-16) (34.0 g, 150 mmol) was coupled with (S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(4-tert-butoxyphenyl)propanoic acid (72.3 g, 150 mmol) and the obtained residue was purified by silica gel column chromatography (eluent: n-hexane:ethyl acetate=3:1) to obtain the title compound (90.0 g, 90%).

reactant | 2,2-diethoxy-N-(pyridin-2-ylmethyl)ethanamine | 150 mmol, 34.0 g | C(C)OC(CNCC1=NC=CC=C1)OCC | C12H20N2O2
reactant | (S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(4-tert-butoxyphenyl)propanoic acid | 150 mmol, 72.3 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)OC(C)(C)C | C28H29NO5
product | (S)-(9H-fluoren-9-yl)methyl 3-(4-tert-butoxyphenyl)-1-((2,2-diethoxyethyl)(pyridin-2-ylmethyl)amino)-1-oxopropan-2-ylcarbamate | 90.0 g, 90% | C(C)(C)(C)OC1=CC=C(C=C1)C[C@@H](C(=O)N(CC1=NC=CC=C1)CC(OCC)OCC)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C40H47N3O6
